US06642389B2
In analogy to the procedure described in example 91 c], 7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophene-4-carbaldehyde (example 98 a]) was treated with (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride [Tetrahedron 50(25), 7543-56(1994)]in 2-propanol in the presence of potassium carbonate to yield the 2Z-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-acrylic acid ethyl ester. The 2Z-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-acrylic acid ethyl ester was further saponified in analogy to the procedure described in example 99 to yield the 2Z-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-acrylic acid as colorless solid.

reactant | 7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophene-4-carbaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C2=C1SC=C2)C=O | C21H17NO3S
reactant | (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
product | 2Z-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-4-yl}-acrylic acid ethyl ester | C(C)OC(/C(=C/C1=CC=C(C=2SC=CC21)OCCC=2N=C(OC2C)C2=CC=CC=C2)/OCC)=O | C27H27NO5S
